US09340538B2
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-3-(methoxycarbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
A mixture of (3S)-4-(((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid (0.5 g, 0.9 mmol), O-methylhydroxylamine hydrochloride (0.2 g, 2.25 mmol), EDC.HCl (1 g, 5.2 mmol), HOAt (1 g, 7.3 mmol) and TEA (1.45 g, 14.3 mmol) in DCM (30 mL) was stirred at 0 t for 1 hour. Then the mixture was warmed to 25° C. and stirred for another 10 hours. The mixture was concentrated in vacuo and the residue was purified by a silica gel column chromatography (DCM/MeOH (V/V)=30/1) to give the title compound as a yellow solid (0.4 g, 76%). The compound was characterized by the following spectroscopic data:

reactant | ((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.9 mmol, 0.5 g | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)O)C(=O)OCC | C22H22BrFN4O5S
reactant | O-methylhydroxylamine hydrochloride | 2.25 mmol, 0.2 g | Cl.CON
reactant | EDC.HCl | 5.2 mmol, 1 g | CCN=C=NCCCN(C)C.Cl
reactant | HOAt | 7.3 mmol, 1 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-3-(methoxycarbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.4 g, 76% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1[C@@H](COCC1)C(NOC)=O)C=1SC=CN1 | C23H25BrFN5O5S
